US08980352B2
In particular, aqueous solutions of limonin-17-β-D-glucopyranoside (0.35 mg/L) adjusted to pH value of 2.0, 3.0, and 3.5, respectively, by adding trace amounts of hydrochloric acid (1 mol/L) were maintained at different temperatures (4, 20, 30° C.) for up to 14 weeks in closed vials in the dark. At regular time intervals, samples (5 μL) were withdrawn with a syringe and were analyzed for the generation of limonin by means of LC-MS/MS on a Synergi Fusion, 150×2 mm i.d., 4 μm column (Phenomenex). To achieve this, chromatography was performed with a flow rate of 250 μL/min starting with a mixture (80/20, v/v) of 0.1% aqueous formic acid and acetonitrile, increasing the acetonitrile content to 40% within 10 min, then to 80% within 5 min, held for 5 min, and, finally, to 100% within 5 min. Using negative electrospray ionization, limonin was analyzed in the multiple reaction monitoring (MRM) mode using the mass transition m/z 469→229. Quantitative analysis was performed by comparing the peak areas obtained for the mass trace with those of defined standard solutions of limonin in methanol.

reactant | limonin 17-β D-glucopyranoside | C[C@@]12CC[C@H]3[C@]([C@@]14[C@H](O4)C(=O)O[C@H]2C=5C=COC5)(C(=O)C[C@@H]6[C@@]37COC(=O)C[C@@H]7OC6(C)C)C.C[C@]12CC[C@H]3[C@H]([C@@H]1CC[C@@H]2O)CCC4=C3C=CC(=C4)O.C([C@@H]1[C@H]([C@@H]([C@H](C(O1)O)O)O)O)O
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
product | limonin | C[C@@]12CC[C@H]3[C@]([C@@]14[C@H](O4)C(=O)O[C@H]2C=5C=COC5)(C(=O)C[C@@H]6[C@@]37COC(=O)C[C@@H]7OC6(C)C)C | C26H30O8
